US04486428
A. 5-Benzyloxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran-4-carboxylic acid
A mixture of 2.0 g 5-benzyloxy-4-cyano-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran, 20 g potassium hydroxide and 100 ml ethylene glycol are heated under nitrogen at reflux for 18 hours and cooled to ambient temperature. The mixture is acidified to pH 3 with concentrated hydrochloric acid, extracted with ethyl acetate and the extracts dried (MgSO4). Evaporation of solvent gives an oil which is taken up in ethyl ether, washed with water, brine, dried (MgSO4) and the solvent evaporated to give 2.09 g of crude solid. The crude was purified by chromatography on silica gel, eluting with ethyl ether/hexane. The combined product fractions are combined and solvent evaporated to afford 1.69 g of the product, m.p. 137°-138° C.

reactant | 5-benzyloxy-4-cyano-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran | 2.0 g | C(C1=CC=CC=C1)OC1=CC(=CC2=C1C(CC(O2)(C)C)C#N)C(CCCCCC)(C)C | C28H37NO2
reactant | potassium hydroxide | 20 g | [OH-].[K+]
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
product | 5-Benzyloxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran-4-carboxylic acid | 1.69 g | C(C1=CC=CC=C1)OC1=CC(=CC2=C1C(CC(O2)(C)C)C(=O)O)C(CCCCCC)(C)C | C28H38O4
